US08222314B2
2-({[4-(Methylsulphanyl)phenyl]carbamoyl}oxy)ethyl prop-2-enoate
0.02 g of 2,6-di-tert-butyl-4-methylphenol, 0.01 g of Desmorapid Z, 4.7 g of 4-(methylthio)phenyl isocyanate in 25 g of ethyl acetate were initially introduced into a 100 ml round-bottomed flask and heated to 60° C. Thereafter, 4.1 g of 2-hydroxyethyl acrylate were added dropwise and the mixture was kept further at 60° C. until the isocyanate content had fallen below 0.1%. Thereafter, the ethyl acetate was distilled off at 5 mbar and cooling was effected. The product was obtained as a crystalline solid.

reactant | 2,6-di-tert-butyl-4-methylphenol | 0.02 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | Desmorapid | 0.01 g | CN(C)CCCN1CN(CN(C1)CCCN(C)C)CCCN(C)C | C18H42N6
reactant | 4-(methylthio)phenyl isocyanate | 4.7 g | CSC1=CC=C(C=C1)N=C=O | C8H7NOS
reactant | 2-hydroxyethyl acrylate | 4.1 g | C(C=C)(=O)OCCO | C5H8O3
reactant | isocyanate | [N-]=C=O
solvent | ethyl acetate | 25 g | C(C)(=O)OCC | C4H8O2
product | 2-({[4-(Methylsulphanyl)phenyl]carbamoyl}oxy)ethyl prop-2-enoate | C(C=C)(=O)OCCOC(NC1=CC=C(C=C1)SC)=O | C13H15NO4S
